US08106043B2
N,N-Dimethyl-2-(6-nitro-2H-benzo[b][1,4]oxazin-4(3H)-yl)ethanamine:
A solution of 6-nitro-3,4-dihydro-2H-benzo[b][1,4]oxazine (1.0 g, 5.55 mmol) in anhydrous DMF (25 mL) under argon was cooled and treated portionwise with sodium hydride (0.677 g, 16.93 mmol) at 5-10° C. 2-chloro-N,N-dimethylethanamine hydrochloride (1.599 g, 11.10 mmol) was added portionwise at 5-10° C., and the resulting heterogeneous red-brown mixture was allowed to warm to room temperature. After 3 hours at room temperature, the mixture was heated to 90° C. and stirred for 30 minutes. The mixture was cooled to room temperature, quenched by the addition of water (25 mL), and diluted with EtOAc. A small amount of 1 N NaOH was added to basify the mixture to pH ˜9-10. The organic layer was separated, and the aqueous layer was further extracted with EtOAc. The combined organic layers were washed with brine (×2), dried (Na2SO4), filtered, and concentrated to afford a dark red oil. The material was purified on silica gel, eluting with 5% MeOH/CH2Cl2, to yield the title compound as a dark orange-red oil (458 mg, 32.8%). 1H NMR (DMSO-d6) δ 7.49-7.39 (m, 2H), 6.87-6.84 (m, 1H), 4.27-4.25 (m, 2H), 3.50-3.37 (m, 4H), 2.43 (t, 2H, J=6.7 Hz), 2.19 (s, 6H); ESI-MS (m/z, %): 252 (MH+, 100).

reactant | 6-nitro-3,4-dihydro-2H-benzo[b][1,4]oxazine | 5.55 mmol, 1.0 g | [N+](=O)([O-])C1=CC2=C(OCCN2)C=C1 | C8H8N2O3
reactant | sodium hydride | 16.93 mmol, 0.677 g | [H-].[Na+]
reactant | 2-chloro-N,N-dimethylethanamine hydrochloride | 11.10 mmol, 1.599 g | Cl.ClCCN(C)C
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | N,N-Dimethyl-2-(6-nitro-2H-benzo[b][1,4]oxazin-4(3H)-yl)ethanamine | 458 mg, 32.8% | CN(CCN1C2=C(OCC1)C=CC(=C2)[N+](=O)[O-])C | C12H17N3O3
